US05108486
Following procedures similar to those employed in Step E of this Example, the reaction of 4.2 g (0.017 mole) of N-ethyl-N-(2,5-difluoro-4-nitrophenyl)acetamide with 5.1 ml of a 10M borane dimethyl sulfide complex in tetrahydrofuran in 100 ml of dry tetrahydrofuran yielded 3.6 g of N,N-diethyl-2,5-difluoro-4-nitroaniline. The nmr spectrum was consistent with the proposed structure.

reactant | N-ethyl-N-(2,5-difluoro-4-nitrophenyl)acetamide | 0.017 mole, 4.2 g | C(C)N(C(C)=O)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C10H10F2N2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N,N-diethyl-2,5-difluoro-4-nitroaniline | 3.6 g | C(C)N(C1=C(C=C(C(=C1)F)[N+](=O)[O-])F)CC | C10H12F2N2O2
